US08530663B2
A solution of 4-(2-methoxycarbonylthiophen-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (2.5 g, 7.7 mmol, 1.0 eq.) and Pd(OH)2/C (0.5 g, 0.6 mmol) in MeOH (70 mL) was degassed and purged with hydrogen (3×). The mixture was hydrogenated (4 atm) at room temperature overnight, then the vessel was evacuated and purged with nitrogen, and the material was filtered and washed with MeOH (150 mL). The remaining material was concentrated then again was hydrogenated (4 atm) at room temperature overnight. Filtering again as above, and concentrating the filtrate provided 4-(2-methoxycarbonylthiophen-3-yl)piperidine-1-carboxylic acid t-butyl ester (2.4 g).

reactant | 4-(2-methoxycarbonylthiophen-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 7.7 mmol, 2.5 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(SC=C1)C(=O)OC | C16H21NO4S
solvent | MeOH | 70 mL | CO | CH4O
catalyst | Pd(OH)2/C | 0.6 mmol, 0.5 g | [OH-].[OH-].[Pd+2]
product | 4-(2-methoxycarbonylthiophen-3-yl)piperidine-1-carboxylic acid t-butyl ester | 2.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(SC=C1)C(=O)OC | C16H23NO4S
